US06232290B1
To a refluxing suspension of methyl 4-[5-[2-(1-piperidyl) pyridin-5-yl]-1,3,4-thiadiazol-2-yl]benzoate (1.50 g) in a mixed solvent of tetrahydrofuran (75 ml) and ethanol (15 ml) was added dropwise 10% sodium hydroxide aqueous solution (3.15 ml). The mixture was refluxed for 1.5 hours and cooled to ambient temperature. To the reaction mixture was added water (100 ml) and the pH was adjusted to 1 with 1N hydrochloric acid (15 ml). The mixture was stirred for 30 minutes at ambient temperature and the resulting precipitates were filtered, washed with water and dried to give 4-[5-[6-(1-piperidyl) pyridin-3-yl]-1,3,4-thiadiazol-2-yl]benzoic acid hydrochloride (1.36 g), as a yellow solid.

reactant | methyl 4-[5-[2-(1-piperidyl) pyridin-5-yl]-1,3,4-thiadiazol-2-yl]benzoate | 1.50 g | N1(CCCCC1)C1=NC=C(C=C1)C1=NN=C(S1)C1=CC=C(C(=O)OC)C=C1 | C20H20N4O2S
reactant | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 3.15 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 15 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-[5-[6-(1-piperidyl) pyridin-3-yl]-1,3,4-thiadiazol-2-yl]benzoic acid hydrochloride | 1.36 g | Cl.N1(CCCCC1)C1=CC=C(C=N1)C1=NN=C(S1)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C19H18N4O2S.ClH/c24-19(25)14-6-4-13(5-7-14)17-21-22-18(26-17)15-8-9-16(20-12-15)23-10-2-1-3-11-23;/h4-9,12H,1-3,10-11H2,(H,24,25);1H
